### PR TITLE
feat: extrinsic finiteness proofs for `toList`, `toListRev` and `toArray` on iterators

### PR DESCRIPTION
**Pull request by datokrat**
This PR removes the `Finite` hypothesis on the `toList`, `toListRev` and `toArray` functions on iterators. The new default implementation uses a fixpoint combinator that is semantically equal to a well-founded recursive function or an opaque function depending on whether the functional is well-founded recursive w.r.t. any well-founded relation. The PR also adds `it.ensureTermination.toList` and other variants that require a `Finite` instance and always terminate, in case that one wants intrinsic guarantees that it terminates.

### CODE REVIEW

**Comment by datokrat** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/840c6750653acdb12b3012cb0a9e61c23edd4e76?parent=746206c5e6b5157aaf8548d4bca72bd1eb474bc8) for 840c6750653acdb12b3012cb0a9e61c23edd4e76 against 746206c5e6b5157aaf8548d4bca72bd1eb474bc8 are in! @datokrat

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-10-15` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-15 10:45:18)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-10-21` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-21 10:44:26)
- 🟡 Mathlib branch [lean-pr-testing-10785](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10785) build this PR didn't complete normally. (2025-10-22 21:18:12) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18729962800)
- ✅ Mathlib branch [lean-pr-testing-10785](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10785) has successfully built against this PR. (2025-10-23 14:59:06) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18750956987)
- ✅ Mathlib branch [lean-pr-testing-10785](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10785) has successfully built against this PR. (2025-10-31 16:16:39) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18976855227)

**Comment by datokrat** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/c3fe0217dc427c40a5165f6084284988539bd6eb?parent=65315a6c98c97060f83aa5a655ce5e6bee7bbffc) for c3fe0217dc427c40a5165f6084284988539bd6eb against 65315a6c98c97060f83aa5a655ce5e6bee7bbffc are in! @datokrat

**Comment by datokrat** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/7fd052b3fd659311cae907a7d47ca75d602d60c6?parent=65315a6c98c97060f83aa5a655ce5e6bee7bbffc) for 7fd052b3fd659311cae907a7d47ca75d602d60c6 against 65315a6c98c97060f83aa5a655ce5e6bee7bbffc are in! @datokrat

**Comment by datokrat** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/6854540eff10cb425488ac8bbff7273700a67fa6?parent=65315a6c98c97060f83aa5a655ce5e6bee7bbffc) for 6854540eff10cb425488ac8bbff7273700a67fa6 against 65315a6c98c97060f83aa5a655ce5e6bee7bbffc are in! @datokrat

File: src/Init/Internal/ExtrinsicTermination.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+-/
+@[implemented_by opaqueFix]
+public def extrinsicFix [∀ x, Nonempty (C x)] (F : (x : α) → ((y : α) → C y) → C x) (x : α) : C x :=
+  open scoped Classical in
+  if h : TerminatesTotally F then
+    let F' := h.choose_spec.choose
+    let h := h.choose_spec.choose_spec
+    h.1.fix F' x
+  else
+    opaqueFix F x
```
Comment (sgraf812) [inline src/Init/Internal/ExtrinsicTermination.lean]: Why not `Classical.ofNonempty`? That's what `opaqueFix F x` will look like in the logic. `#print axioms opaqueFix` even reports `Classical.choice`.

At runtime, we will never see `extrinsicFix` (it is noncomputable anyway), so there is no point about writing `opaqueFix` here other than to let reader scratch their head.

Comment (datokrat) [reply src/Init/Internal/ExtrinsicTermination.lean]: We need to be careful here. In my understanding, when I have two `opaque` declarations, there is now way to prove that they are equal. On the contrary, if I defined both declarations using `Classical.choice`, they *would* be equal.

```lean
def f (n : Nat) := Std.Internal.extrinsicFix (C := fun _ => Nat) (fun n G => G n) n
def g (n : Nat) := Std.Internal.extrinsicFix (C := fun _ => Nat) (fun n G => G n + 1) n

-- should be provable, considering that `f` and `g` are not well-founded
theorem a : f = Classical.ofNonempty (α := Nat → Nat) := sorry
theorem b : g = Classical.ofNonempty (α := Nat → Nat) := sorry
theorem c : f = g := by simp [a, b]
```

This is *very* dangerous. If the compiler happens to optimize `f` and `g` in a way that makes them terminate, then we could perhaps prove `f 0 = 0` and `g 0 = 1` using `native_decide`, permitting a proof of `False` via `c`.

This doesn't happen if we use `opaqueFix`.

Comment (datokrat) [reply src/Init/Internal/ExtrinsicTermination.lean]: So while `ofNonempty` is an `opaque` function, it's a *single* opaque function, and we need *separate* ones for each functional.

Comment (sgraf812) [reply src/Init/Internal/ExtrinsicTermination.lean]: That's a very good point, thanks. `opaque` hides from the logic that the result of `Classical.ofNonempty`  does not truly depend on the parameters of the opaque definition. So `opaque` is rather like a "parameterized `Classical.choice`".

Still, it's not like the definition of `opaqueFix` matters; we could provide a completely different opaque definition/axiom `foo [∀ x, Nonempty (C x)] (F : (x : α) → ((y : α) → C y) → C x) (x : α) : C x`. It's just convenient that `opaqueFix` is around and has the right signature. Maybe a comment would help?

Comment (datokrat) [reply src/Init/Internal/ExtrinsicTermination.lean]: Yes, a comment seems like a good idea. I guess I just got too familiar to this pattern from @Rob23oba's experiments with partial fixpoints to remember that it's nonobvious. :)

File: src/Init/Data/Iterators/Lemmas/Consumers/Collect.lean [hunk 2]
```diff
@@ -31,6 +33,23 @@ theorem Iter.toListRev_eq_toListRev_toIterM {α β} [Iterator α Id β] [Finite
     it.toListRev = it.toIterM.toListRev.run :=
   (rfl)
 
+@[simp]
+theorem Iter.ensureTerminationToArray_eq_toArray {α β} [Iterator α Id β] [Finite α Id] [IteratorCollect α Id Id]
```
Comment (TwoFX) [inline src/Init/Data/Iterators/Lemmas/Consumers/Collect.lean]: Why not `Iter.toArray_ensureTermination_eq_toArray` or even `Iter.toArray_ensureTermination`?

Same for all other lemmas in this file.

File: src/Init/Data/Iterators/Lemmas/Consumers/Collect.lean [hunk 3]
```diff
@@ -49,24 +68,47 @@ theorem Iter.toList_toArray {α β} [Iterator α Id β] [Finite α Id] [Iterator
     it.toArray.toList = it.toList := by
   simp [toArray_eq_toArray_toIterM, toList_eq_toList_toIterM, ← IterM.toList_toArray]
 
+@[simp]
```
Comment (TwoFX) [inline src/Init/Data/Iterators/Lemmas/Consumers/Collect.lean]: Probably that doesn't even need to be `simp` I think? Should follow from the others?

File: src/Init/Internal/ExtrinsicTermination.lean [hunk 4]
```diff
@@ -0,0 +1,158 @@
...
+  if h : TerminatesTotally F then
+    let F' := h.choose_spec.choose
+    let h := h.choose_spec.choose_spec
+    h.1.fix F' a
+  else
+    -- Return `opaqueFix F a` so that `implemented_by opaqueFix` is sound.
+    -- In effect, `extrinsicFix` is opaque if `TerminatesTotally F` is false.
+    opaqueFix F a
+
+public def extrinsicFix_eq [∀ a, Nonempty (C a)] {F : ∀ a, (∀ a', C a') → C a}
```
Comment (TwoFX) [inline src/Init/Internal/ExtrinsicTermination.lean]: Can this not be a `theorem`?

File: src/Init/Internal/ExtrinsicTermination.lean [hunk 5]
```diff
@@ -0,0 +1,158 @@
+/-
```
Comment (TwoFX) [inline src/Init/Internal/ExtrinsicTermination.lean:1]: I'm not really qualified to review this file, but you have discussed it a lot, so I'll trust your judgement that it's good.

**Comment by datokrat** [comment]
Closing in favor of #10863.
